US05137538
Preparation of N,N'-bis(β-hydroxyethyl)-N,N'-bis(4-nitrosophenyl)-1,3-diamino-2-propanol
A solution of 1.14 moles (78.7 g) of sodium nitrite in 150 ml of water is added dropwise at between 0° C. and 5° C. to a solution of 0.5 mole (165.2 g) of N,N'-bis(β-hydroxyethyl)-N,N'-bis(phenyl)-1,3-diamino-2-propanol prepared in the preceding stage, 290 ml of concentrated hydrochloric acid and 900 g of ice. After the end of addition stirring is continued for 1 hour 30 minutes. The reaction medium is neutralized by adding 300 ml of 20% strength aqueous ammonia at 10° C. After filtering off, the product obtained is again made into a paste with water. It can be used wet for the following stage.

reactant | sodium nitrite | 1.14 moles, 78.7 g | N(=O)[O-].[Na+]
reactant | N,N'-bis(β-hydroxyethyl)-N,N'-bis(phenyl)-1,3-diamino-2-propanol | 0.5 mole, 165.2 g | OCCN(CC(CN(C1=CC=CC=C1)CCO)O)C1=CC=CC=C1 | C19H26N2O3
reactant | hydrochloric acid | 290 ml | Cl | ClH
reactant | ammonia | N | H3N
reactant | water | 150 ml | O | H2O
product | N,N'-bis(β-hydroxyethyl)-N,N'-bis(4-nitrosophenyl)-1,3-diamino-2-propanol | OCCN(CC(CN(C1=CC=C(C=C1)N=O)CCO)O)C1=CC=C(C=C1)N=O | C19H24N4O5
